US04680172
1. Preparation of Arecoline Free Base
Ten grams of arecoline HBr was dissolved in a minimal quantity (approximately 25 ml) of water and adjusted to pH 10 with saturated KOH in a separatory funnel. One hundred mls of petroleum ether was added and the layers were mixed. NaCl was then added to saturate the aqueous layer. The organic layer was collected, and the aqueous layer was extracted three more times with petroleum ether. The combined organic layers were transferred to a 500 ml round bottom flask, boiling chips were added and the petroleum ether was removed by distillation. The remaining oil was layered with N2 and stored in low-actinic glassware. The oil was anlyzed by NMR to show the absence of a halogen component.

reactant | arecoline HBr | Ten grams | CN1CCC=C(C1)C(=O)OC.Br
reactant | KOH | [OH-].[K+]
reactant | NaCl | [Na+].[Cl-]
solvent | water | approximately 25 ml | O | H2O
product | Arecoline | CN1CCC=C(C1)C(=O)OC | C8H13NO2
